US08137821B2
1.74 g (7 mmol) of Dimethylhydroxymethyl-2-fluorenylacetylene and 294 mg (7.35 mmol) of NaOH (KISHIDA CHEMICAL CO., Ltd., 0.7 mm granular, 98%) were placed in a 100 mL two-neck flask equipped with a reflux condenser and the air inside the flask was replaced with Ar. 35 mL of toluene was added thereto and the mixture was refluxed at 120° C. for 1 hour. Toluene was added to the reaction mixture and the mixture was washed with a saturated aqueous ammonium chloride solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure by an evaporator. The resulting crude reaction product was dissolved in 40 ml of hexane at 70° C. and then the insolubles were filtered off. The filtrate was cooled to give 2-fluorenylethyne, i.e., the desired compound as a yellow solid (1.12 g, yield: 84%).

reactant | Dimethylhydroxymethyl-2-fluorenylacetylene | 7 mmol, 1.74 g | CC=1C(=C(C=2CC3=CC=CC=C3C2C1)C#CCO)C | C18H16O
reactant | NaOH | 7.35 mmol, 294 mg | [OH-].[Na+]
reactant | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 40 ml | CCCCCC | C6H14
product | 2-fluorenylethyne | C1(=CC=CC=2C3=CC=CC=C3CC12)C#C | C15H10
